US05665748
Oxalyl chloride[(COCl2)2 ] (0.88 g) was added dropwise to a solution of dimethyl sulfoxide (DMSO) (1.0 g) in dichloromethane (30 ml) at -30° C. To the mixture was added 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]-propanol (2.0 g). The mixture was stirred for 30 minutes at the same temperature. To the mixture was added triethyl amine (3.19 g). The mixture was stirred for 30 minutes, warmed to 0° C. and poured into 2N HCl. The organic layer was separated, washed with water and dried over magnesium sulfate (MgSO4). The solvent was distilled off, and the residue was subjected to silica gel column chromatography. From the fractions eluted with ethyl acetate-hexane (1:2, v/v), 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionaldehyde (1.54 g, 77%) was obtained. Recrystallization from ether-isopropyl ether gave colorless needles. Melting point: 81°-82° C.

reactant | dimethyl sulfoxide | 1.0 g | CS(=O)C | C2H6OS
reactant | 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]-propanol | 2.0 g | C1=C(C=CC2=CC=CC=C12)CC=1OC2=C(N1)C=C(C=C2)CCCO | C21H19NO2
reactant | triethyl amine | 3.19 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionaldehyde | 1.54 g, 77% | C1=C(C=CC2=CC=CC=C12)CC=1OC2=C(N1)C=C(C=C2)CCC=O | C21H17NO2
